US08183245B2
To a solution of benzyl trans-3-fluoro-4-[(4-nitrobenzyl)oxy]piperidine-1-carboxylate (180 g, 0.45 mol) in THF/H2O (1500 mL) was added LiOH (39 g, 0.9 mol) in portions at 0° C. After the addition, the reaction mixture was allowed to warm to room temperature and stirred overnight. TLC (EtOAc:petroleum ether=1:2) showed the starting material was consumed completely. The reaction mixture was extracted with EtOAc (3×500 mL). The combined organic layers were washed with brine (800 mL), dried over anhydrous Na2SO4 and concentrated to a crude residue. The residue was purified by column chromatography (EtOAc:petroleum ether=1:20) to afford benzyl trans-3-fluoro-4-hydroxypiperidine-1-carboxylate as a white solid.

reactant | benzyl trans-3-fluoro-4-[(4-nitrobenzyl)oxy]piperidine-1-carboxylate | 0.45 mol, 180 g | F[C@@H]1CN(CC[C@H]1OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)OCC1=CC=CC=C1 | C20H21FN2O5
reactant | LiOH | 0.9 mol, 39 g | [Li+].[OH-]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF H2O | 1500 mL | C1CCOC1.O
product | benzyl trans-3-fluoro-4-hydroxypiperidine-1-carboxylate | F[C@@H]1CN(CC[C@H]1O)C(=O)OCC1=CC=CC=C1 | C13H16FNO3
